US07704995B2
To a solution of 3-amino-N-ethyl-6-[3-(hydroxymethyl)phenyl]pyrazine-2-carboxamide (566.1 mg, 1.0 eq) in dichloromethane (20 mL) were added carbon tetrabromide (749.8 mg, 1.1 eq), triphenylphosphine (600 mg, 1.1 eq) at ambient temperature. After being stirred for 7 h, the reaction mixture was partitioned with dichloromethane (10 mL×3), washed with brine. The organic layer was combined and dried over anhydrous magnesium sulfate. Filteration and concentration in vacuo gave a crude product. Purification by column chromatography afforded the 3-amino-6-[3-(bromomethyl)phenyl]-N-ethylpyrazine-2-carboxamide (534 mg, 77% yield): 1H NMR (400 MHz, DMSO-d6): δ 8.87 (m, 2H), 8.84 (s, 2H), 8.23 (m, 1H), 7.61 (bs, 1H), 7.45 (m, 1H), 4.77 (s, 2H), 3.38 (m, 2H), 1.16 (m, 3H).

reactant | 3-amino-N-ethyl-6-[3-(hydroxymethyl)phenyl]pyrazine-2-carboxamide | 566.1 mg, 1.0 eq | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CO)C(=O)NCC | C14H16N4O2
reactant | carbon tetrabromide | 749.8 mg, 1.1 eq | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 600 mg, 1.1 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-amino-6-[3-(bromomethyl)phenyl]-N-ethylpyrazine-2-carboxamide | 534 mg, 77% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CBr)C(=O)NCC | C14H15BrN4O
